US04983600
N-(3,5-dichlorophenyl)-N'-(1,2-diethylpyrazolidin-4-yl)urea.
A solution of 4-amino-1,2-diethylpyrazolidine (1.26 g, 8.8 mmol) in anhydrous toluene (5 ml) was added to a solution of 3,5-dichlorophenyl isocyanate (1.71 g, 9.1 mmol) in dry toluene (20 ml) and the mixture stirred overnight. The precipitated solid was collected, washed with toluene and dried to give the title compound, 1.94 g. This was converted to the 1:1 maleate, mp 165°-167° C.

reactant | 4-amino-1,2-diethylpyrazolidine | 8.8 mmol, 1.26 g | NC1CN(N(C1)CC)CC | C7H17N3
reactant | 3,5-dichlorophenyl isocyanate | 9.1 mmol, 1.71 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-dichlorophenyl)-N'-(1,2-diethylpyrazolidin-4-yl)urea | ClC=1C=C(C=C(C1)Cl)NC(=O)NC1CN(N(C1)CC)CC | C14H20Cl2N4O
